US09359375B2
A mixture of tert-butyl (1S,2R)-2-(3-bromo-4-cyanophenylamino)cyclohexylcarbamate (98 mg, 0.25 mmol), m-toluidine (54 uL, 0.50 mmol), BINAP (31 mg, 0.050 mmol), Pd(OAc)2 (12 mg, 0.053 mmol) and Cs2CO3 (160 mg, 0.49 mmol) in toluene (3 mL) was degassed with Ar, then was stirred at 100 C for 3 h. EtOAc and water were added. The organic phase was separated, washed with 1N HCl, then with brine, dried over Na2SO4, concentrated in vacuo to give tert-butyl (1S,2R)-2-(4-cyano-3-(m-tolylamino)phenylamino)cyclohexylcarbamate as a residue.

reactant | tert-butyl (1S,2R)-2-(3-bromo-4-cyanophenylamino)cyclohexylcarbamate | 0.25 mmol, 98 mg | BrC=1C=C(C=CC1C#N)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C18H24BrN3O2
reactant | m-toluidine | 0.50 mmol, 54 uL | NC1=CC(=CC=C1)C | C7H9N
reactant | BINAP | 0.050 mmol, 31 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | Cs2CO3 | 0.49 mmol, 160 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.053 mmol, 12 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | tert-butyl (1S,2R)-2-(4-cyano-3-(m-tolylamino)phenylamino)cyclohexylcarbamate | C(#N)C1=C(C=C(C=C1)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)NC=1C=C(C=CC1)C | C25H32N4O2
